US07468375B2
Step 2: Ethyl 1-(4-fluorobenzyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate.
A solution of 1-(4-fluorobenzyl)-1H-pyrrole (11.1 g, 63.4 mmol), ethyl 3-dimethylamino-2-(dimethylamino-methyleneamino)-acrylate (14.84 g, 69.7 mmol) [prepared according to W. Kantlehner, F. Wagner, H. Bredereck, Liebigs Ann. Chem. 1980, 344-357] and trifluoroacetic acid (19.4 mL, 253.6 mmol) in acetic acid (80 mL) was stirred for 16 h at ambient temperature. Then the solution was heated to reflux for 4 hr. After cooling down, it was concentrated. The residue was poured into satd. potassium carbonate solution (1000 mL) and extracted with ethyl acetate (3×500 mL). The combined organic extracts were washed with brine (2×500 mL), dried over sodium sulfate, and concentrated. Purification by column chromatography with toluene:acetonitrile (2:1) provided the title compound. (3.6 g, 19% yield). 1H NMR (CDCl3) δ ppm 9.15 (s, 1H), 8.23 (s, 1H), 7.37 (d, 1H, J=3.0 Hz), 7.0-7.11 (m, 4H), 6.83 (d, 1H, J=3.0 Hz), 5.40 (s, 2H), 4.52 (q, 2H, J=7.0 Hz), 1.48 (t, 3H, J=7.0 Hz). LCMS (APCI, M+H+): 299.

reactant | 1-(4-fluorobenzyl)-1H-pyrrole | 63.4 mmol, 11.1 g | FC1=CC=C(CN2C=CC=C2)C=C1 | C11H10FN
reactant | ethyl 3-dimethylamino-2-(dimethylamino-methyleneamino)-acrylate | 69.7 mmol, 14.84 g | CN(C=C(C(=O)OCC)N=CN(C)C)C | C10H19N3O2
reactant | trifluoroacetic acid | 253.6 mmol, 19.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | Ethyl 1-(4-fluorobenzyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 19% yield | FC1=CC=C(CN2C=CC=3C=NC(=CC32)C(=O)OCC)C=C1 | C17H15FN2O2
